US06462222B1
6-(N-Me, N-Et Carbamyloxy) N-Boc aminoindan (7.8 g. 23.3 mmol) was dissolved in dioxane (80 ml), and a 20% solution of gas. HCl in dioxane (80 ml) was added. After 2 hr stirring at RT the solvent was evaporated in-vacuo and the residue was treated with dry ether (200 ml) and the mixture stirred at RT for 4 hrs and filtered, to give 6.15 g (0.7 mmol, 97%) of 6-(N-Me, N-Et carbamyloxy) aminoindan hydrochloride.

reactant | N-Boc aminoindan | 23.3 mmol, 7.8 g | C(=O)(OC(C)(C)C)NC1CCC2=CC=CC=C12 | C14H19NO2
reactant | HCl | Cl | ClH
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | aminoindan hydrochloride | Cl.NC1CCC2=CC=CC=C12 | InChI=1S/C9H11N.ClH/c10-9-6-5-7-3-1-2-4-8(7)9;/h1-4,9H,5-6,10H2;1H
